US05206235
Step B: 3-Amino-4-phenyltoluene
A solution of 2.4 g of 3-nitro-4-phenyltoluene in 25 mL of methanol was hydrogenated at room temperature and 40 psi over 0.30 g of 5% Pd/C catalyst. The solution was filtered and the filtrate concentrated to give 1.98 g of product. EI-MS: calculated for C13H13N: 183; found 183.

reactant | 3-nitro-4-phenyltoluene | 2.4 g | [N+](=O)([O-])C=1C=C(C=CC1C1=CC=CC=C1)C | C13H11NO2
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 0.30 g | [Pd] | Pd
product | 3-Amino-4-phenyltoluene | 1.98 g | NC=1C=C(C=CC1C1=CC=CC=C1)C | C13H13N
